US08022205B2
To dichloromethane solution (2 ml) of 3-bromo-4-methylbenzoic acid (50 mg, 0.23 mmol), WSCI (67 mg, 0.348 mmol), morpholine (24 μl, 0.278 mmol) and N,N-dimethylaminopyridine (28 mg, 0.232 mmol) were added, followed by stirring at room temperature for 16 hours. To the reaction mixture, saturated aqueous ammonium chloride solution was added, followed by extraction twice with ethyl acetate (10 ml). The organic layer was washed with brine (10 ml), and dried over sodium sulfate, followed by distilling off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane/methanol=50/1), whereby (3-bromo-4-methyl-phenyl)-morpholin-4-yl-methanone was obtained as a yellow brown solid (68 mg, 100%).

reactant | 3-bromo-4-methylbenzoic acid | 0.23 mmol, 50 mg | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | morpholine | 0.278 mmol, 24 μl | N1CCOCC1 | C4H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (3-bromo-4-methyl-phenyl)-morpholin-4-yl-methanone | BrC=1C=C(C=CC1C)C(=O)N1CCOCC1 | C12H14BrNO2
